US05286737
Preparation of Methyl 1-(2,4-difluorobenzyl)-2-oxocyclopentanecarboxylate
To a stirred suspension of n-hexane-washed sodium hydride (0.58 g, 24 mmol, 1.2 eq), there was added a solution of methyl 2-oxocyclopentanecarboxylate (2.84 g, 20.0 mmol, 1.0 eq) in DMF (20 ml) at 10° C. After the suspension had been heated at room temperature and then stirred for 30 min, the suspension became yellowish. Upon confirmation of the terminal evolution of hydrogen, the resulting solution was again warmed to 10° C. and 2,4-difluorobenzyl bromide (5.38 g, 26.0 mmol, 1.3 eq) was added. The solution was warmed to room temperature and stirred for 2 h. After the terminal reaction had been confirmed by TLC, the resulting solution was poured onto ice-cold water (30 ml) and washed with diethyl ether (100 ml×2).

reactant | sodium hydride | 24 mmol, 0.58 g, 1.2 eq | [H-].[Na+]
reactant | methyl 2-oxocyclopentanecarboxylate | 20.0 mmol, 2.84 g, 1.0 eq | O=C1C(CCC1)C(=O)OC | C7H10O3
reactant | hydrogen | [H][H] | H2
reactant | 2,4-difluorobenzyl bromide | 26.0 mmol, 5.38 g, 1.3 eq | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | n-hexane | CCCCCC | C6H14
product | Methyl 1-(2,4-difluorobenzyl)-2-oxocyclopentanecarboxylate | FC1=C(CC2(C(CCC2)=O)C(=O)OC)C=CC(=C1)F | C14H14F2O3
